US04886835
The procedure is as in Example 24 for the preparation of ethyl 5-dimethylamino-5-phenyl-2-phenylthio-2,4-pentadienoate, starting with N-(3-dimethylamino-3-phenylpropenylidene)-N-methylmethanaminium tetrafluoroborate (5.8 g), a 2M ethanolic solution of sodium ethylate (10 cc) and ethyl (phenethylthio)acetate (4.5 g) in ethanol (50 cc). After purification by chromatography on a silica column with dichloromethane as eluent, ethyl 5-dimethylamino-5-phenyl-2-phenethylthio-2,4-pentadienoate (4.5 g) is obtained in the form of a yellow oil, and is used in the crude state in the subsequent syntheses.

reactant | ethyl 5-dimethylamino-5-phenyl-2-phenylthio-2,4-pentadienoate | CN(C(=CC=C(C(=S)OCC)C1=CC=CC=C1)C1=CC=CC=C1)C | C21H23NOS
reactant | N-(3-dimethylamino-3-phenylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 5.8 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C1=CC=CC=C1)C
reactant | sodium ethylate | 10 cc | CC[O-].[Na+]
reactant | ethyl (phenethylthio)acetate | 4.5 g | C(CC1=CC=CC=C1)SCC(=O)OCC | C12H16O2S
solvent | ethanol | 50 cc | C(C)O | C2H6O
product | ethyl 5-dimethylamino-5-phenyl-2-phenethylthio-2,4-pentadienoate | 4.5 g | CN(C(=CC=C(C(=S)OCC)CCC1=CC=CC=C1)C1=CC=CC=C1)C | C23H27NOS
